Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Nsaids / Lisinopril
 
Attending: ___.
 
Chief Complaint:
R shoulder pain
 
Major Surgical or Invasive Procedure:
R Shoulder arthrocentesis ___

 
History of Present Illness:
___ male with a past medical history of hypertension,
chronic knee pain, osteoarthritis of the shoulder and knees
bilaterally, status post gastric bypass who presents to the
emergency department for evaluation of right shoulder pain. 

Patient reports frequent use shoulder in past 2 days,
specifically in the setting of mopping and cleaning and during
this time noted increased pain of the right shoulder. He denies
skin changes, numbness, paresthesias. No fevers or chills at
home.

Patient usually has decreased range of motion at the right
shoulder joint most pronounced with problems abduction past 90°,
extension of the shoulder joint as well as external rotation. In
the past, patient has had physical therapy for his right 
shoulder
and has had frozen shoulder before. Ultimately it was increased
pain that prompted presentation 

In the ED, initial VS were: T97.2 HR86 BP115/58 RR 20 94% RA

Exam notable for:
General: Well-appearing male in no acute distress.
Left upper extremity:
- The right shoulder is full to palpation relative to the left.
There is no overlying erythema, but there is modest warmth to 
the
touch. Exquisite pain is produced by short arc ROM and axial
loading. The arm cannot really be moved out of anatomical
position without causing severe pain. 
- Skin intact
- No deformity, edema, ecchymosis, erythema, induration
- Soft, non-tender arm and forearm
- Full, painless ROM at elbow, wrist, and digits
- Fires EPL/FPL/DIO
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse, WWP

ECG:

Labs:
-CBC: WBC 11.3, Hgb 13.3, Plt 227
-Chemistry: Na 134, K3.8, BUN 10, Sr Cr 0.8
-CRP 219

Imaging:
CXR ___: 
No evidence of acute cardiopulmonary disease. Glenohumeral
shoulder ___: No comparison. Four views of the right 
shoulder
are provided. No acute fracture. No dislocation. However, severe
degenerative changes at the level of the humeral glenoid joint
are seen, with extensive subcortical sclerosis, degenerative 
cyst
formation and osteophyte formation. The acromiohumeral distance
is normal. 

Consults:
Orthopedics: Worsening shoulder pain, pain with short arc/axial
load, and wbc 12/crp 220. Unable to aspirate sufficient joint
fluid for testing. ___ cannot aspirate until ___. Would 
therefore
recommend:
 - Obs overnight for ___ arthrocentesis in AM
 - Please send ___ fluid for cell count, gram stain and culture
 - NPO MN; if fluid positive, potential for OR
 - please obtain preoperative testing: cbc chem coags T+S CXR 
ECG

Patient received:
___ 10:36 PO Acetaminophen 1000 mg 
___ 13:49 PO/NG Cyclobenzaprine 5 mg   
___ 13:49 TD Lidocaine 5% Patch 1 PTCH   
___ 15:52 PO OxyCODONE (___) 5 mg 
___ 17:08 IV Morphine Sulfate 4 mg   
___ 19:00 PO Acetaminophen 1000 mg 
___ 20:42 PO/NG OxyCODONE (___) 5 mg 

Transfer VS were: T 99.4  HR 69  BP 105/65  RR 16  SpO2 96% RA

On arrival to the floor, patient reports that his shoulder
continues to cause him significant pain. He is unable to move 
his
shoulder without pain, and has been holding it close to his 
body.
He takes up to 8 Percocets daily for chronic polyarticular
osteoarthritis, therefore he asks that he be able to receive
additional meds for pain relief.   

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
Hypertension
Osteoarthritis
Hyperlipidemia
Sleep Apnea
Depression
Fatty Liver
 
Social History:
___
Family History:
No RA

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS: T 98.7 BP 117 / 76 HR 78 RR 18 SpO2 96% RA 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
___ ___ Temp: 98.0 PO BP: 118/79 HR: 64 RR: 20 O2 
sat:98% 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema, patient's R 
shoulder pain has significantly improved, although still with 
reduced ROM bilaterally including forward flexion, internal and 
external rotation. Left shoulder ROM > Right
shoulder ROM. Tenderness to palpation over R biceps tendon, 
otherwise non-tender. Additionally, no increased warmth, 
erythema or obvious effusion of the R shoulder.
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:02PM BLOOD WBC-11.3* RBC-4.19* Hgb-13.3* Hct-37.9* 
MCV-91 MCH-31.7 MCHC-35.1 RDW-13.4 RDWSD-44.0 Plt ___
___ 01:02PM BLOOD Plt ___
___ 01:02PM BLOOD Glucose-115* UreaN-10 Creat-0.8 Na-134* 
K-3.8 Cl-94* HCO3-25 AnGap-15
___ 01:02PM BLOOD CRP-219.0*
___ 08:20PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:20PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-TR* Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 08:20PM URINE RBC-3* WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-1 TransE-<1
___ 08:20PM URINE Hours-RANDOM UreaN-1137 Creat-291 Na-<20 
Cl-<20
___ 08:20PM URINE Osmolal-654

R SHOULDER SYNOVIAL FLUID STUDIES:
==================================
___ 10:01AM JOINT FLUID ___ Polys-88* 
___ ___ 10:01AM JOINT FLUID Crystal-NONE

DISCHARGE LABS:
===============
___ 04:40AM BLOOD WBC-5.0 RBC-3.55* Hgb-11.2* Hct-33.3* 
MCV-94 MCH-31.5 MCHC-33.6 RDW-13.2 RDWSD-45.9 Plt ___
___ 04:40AM BLOOD Glucose-83 UreaN-11 Creat-0.8 Na-142 
K-4.3 Cl-103 HCO3-27 AnGap-12
___ 04:40AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.7

IMAGING STUDIES:
================
R SHOULDER X-RAY ___:
IMPRESSION:  No comparison.  Four views of the right shoulder 
are provided.  No acute fracture.  No dislocation.  However, 
severe degenerative changes at the level of the humeral glenoid 
joint are seen, with extensive subcortical sclerosis, 
degenerative cyst formation and osteophyte formation.  The 
acromiohumeral distance is normal. 

CXR ___:
IMPRESSION:  No evidence of acute cardiopulmonary disease. 

___ guided R shoulder arthrocentesis ___:
IMPRESSION: Right shoulder aspiration under ultrasound guidance. 
 A sample was sent for microbiology and cell count. 

MICROBIOLOGY:
=============
Microbiology Results(last 7 days) ___  
__________________________________________________________
___ 5:45 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 12:35 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 10:01 am JOINT FLUID      Source: R shoulder. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 9:24 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 8:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
___ with HTN, with adhesive capsulitis of right shoulder, 
bilateral knee OA s/p bilateral TKR, s/p gastric bypass admitted 
with acute on chronic right shoulder pain, initially concerning 
for possible septic arthritis in the setting of an elevated CRP 
>200. 

ACUTE ISSUES ADDRESSED:
=======================
# Right shoulder pain, concern for septic arthritis
# Chonic adhesive capsulitis
# Biceps tendonitis
Presenting with acute on chronic right shoulder pain. CRP > 200 
on admission. Underwent ___ aspiration ___, and was started on 
IV vancomycin/ceftriaxone while awaiting final results of fluid 
cultures. Fluid studies were notable for ___ WBCs, 88% PMNs, 
no crystals. Gram stain unremarkable, and joint fluid cultures 
with no growth to date. His symptoms have now improved and joint 
cultures have remained negative. Given cell counts and negative 
cultures thus far, more likely that this represents acute flare 
of inflammatory arthritis rather than septic arthritis. 
Additionally, he has had no fever, with only mild leukocytosis 
to 11.5 which may have been reactive. No acute intervention per 
orthopedics. Antibiotics were discontinued and he will follow up 
in ___ clinic as an outpatient. We will continue to 
follow up joint fluid cultures over the next few days until 
finalized. He was given PRN oxycodone (he's on Percocet for pain 
chronically, at home), and he will resume this on discharge. 
However, we have recommended Tylenol and NSAIDs PRN (max daily 
Tylenol dose, including what's contained in Percocet, 4gm/day), 
lidocaine patch, and home physical therapy to decrease opiate 
requirements.

# Hyponatremia: Mild, asymptomatic, potentially in the setting 
of pain.  Low urine sodium, elevated UOsm was consistent with 
hypovolemia. Hyponatremia resolved after IV administration. 

CHRONIC ISSUES:
===============
# Hypertension: 
Home HCTZ and Losartan were held on admission in anticipation of 
potential need for OR washout. These were resumed on discharge.

#Osteoarthritis
Continue home Percocet for pain PRN.

#Preventative care:
Continue home ASA daily.

TRANSITIONAL ISSUES:
====================
[] Antibiotics were discontinued and he will follow up in 
___ clinic as an outpatient
[] Follow up joint fluid cultures over the next few days until 
finalized
[] Further workup for inflammatory arthritis (CCP, RF, hand 
x-rays, etc.) per rheumatology at outpatient follow up
[] Pain control with tylenol, NSAIDS OTC as needed, lidocaine 
patch
[] Physical therapy to eval and treat at home for R shoulder 
pain

#CONTACT: ___ 
Relationship: wife 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Viagra (sildenafil) 100 mg oral ASDIR 
4. Aspirin 81 mg PO DAILY 
5. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO 8X/DAY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Cyanocobalamin 100 mcg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. FoLIC Acid 1 mg PO DAILY 
10. Multivitamins W/minerals Chewable 1 TAB PO DAILY 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM  
2.  Aspirin 81 mg PO DAILY  
3.  Cyanocobalamin 100 mcg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  Multivitamins W/minerals Chewable 1 TAB PO DAILY  
9.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO 8X/DAY  
10.  Viagra (sildenafil) 100 mg oral ASDIR  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Acute inflammatory R shoulder arthritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted with acute on chronic right shoulder pain 
with increased immobility.

What happened while I was in the hospital?  
- Blood work showed elevated inflammatory markers, but you had 
no fever. Due to concern for infected joint, you underwent fluid 
aspiration and were placed on IV antibiotics. 
- Fluid evaluation has not shown evidence of infection to date 
and your symptoms improved. 
- You were seen by orthopedics and rheumatology services. Fluid 
cultures from your joint have not grown any bacteria. It is 
unlikely at this point that your joint is infected. Your 
antibiotics were subsequently discontinued and the fluid 
cultures will be monitored for the next several days.  
- You are discharged to home with recommendation to pursue 
outpatient physical therapy.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team 

 
Followup Instructions:
___